* CL21A226MPQNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-13-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 22uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.15mm
*     Width = 1.25+/-0.15mm
*     Thickness = 1.25+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 4.1V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A226MPQNNN_Precise_DC4.1V_25degC 1 2
C1 1 3 8.85238E-6
C2 3 4 3.04731E-4
C3 4 5 3.87507E-4
C4 5 6 3.94404E-4
C5 6 7 3.82946E-4
C6 7 8 4.68464E-4
C7 8 9 3.34495E-4
C8 9 10 1.0E-10
C16 17 18 5.84665E-4
C17 18 19 0.00254
C18 19 20 2.53303E-4
C19 20 21 2.53303E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 1.80911E-5
C24 25 26 4.91404E-5
C25 26 27 1.74140E-6
C26 27 28 4.55416E-11
C27 28 2 3.19517E-11
L10 11 12 6.54445E-11
L11 12 13 9.62648E-11
L12 13 14 9.52786E-11
L13 14 15 2.86298E-11
L14 15 16 3.33465E-11
L15 16 17 1.0E-10
L16 17 18 1.97853E-11
L17 18 19 8.46360E-12
L18 19 20 1.0E-10
L19 20 21 1.0E-10
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 8.85682E-11
L24 25 26 1.68548E-11
L25 26 27 1.70486E-10
L26 27 28 3.13339E-11
L27 28 2 1.62985E-11
R1 1 3 1.0E8
R2 3 4 20.44470
R3 4 5 2.57822
R4 5 6 0.47703
R5 6 7 0.09845
R6 7 8 0.01661
R7 8 9 0.00492
R8 9 10 1.0E-6
R9 10 11 0.00253
R11 12 13 0.01289
R12 13 14 0.01276
R13 14 15 0.03716
R14 15 16 0.15238
R15 16 17 1.0E-6
R16 17 18 0.00264
R17 18 19 7.42071E-4
R18 19 20 1.0E-6
R19 20 21 1.0E-6
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00552
R24 25 26 0.00313
R25 26 27 0.00728
R26 27 28 1.18975
R27 28 2 0.87589
.ENDS CL21A226MPQNNN_Precise_DC4.1V_25degC